US08242153B2
b) (S)-2-Amino-4-phenoxy-butyric acid methyl ester
To a solution of (S)-2-tert-butoxycarbonylamino-4-phenoxy-butyric acid methyl ester (1.15 g) in dichloromethane (3 ml) was added under an argon atmosphere trifluoroacetic acid (4.2 ml). The mixture was stirred for 16 h. The mixture was concentrated. The residue was treated with sodium bicarbonate solution until the pH was basic and extracted with dichloromethane twice. The combined organic layers were dried (MgSO4) and evaporated. The product was used without purification for the next step, yellow oil. MS (ISP): 210.3 ([M+H]+)).

reactant | (S)-2-tert-butoxycarbonylamino-4-phenoxy-butyric acid methyl ester | 1.15 g | COC([C@H](CCOC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C16H23NO5
reactant | trifluoroacetic acid | 4.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (S)-2-Amino-4-phenoxy-butyric acid methyl ester | COC([C@H](CCOC1=CC=CC=C1)N)=O | C11H15NO3
